US05929085
(b) 2,3-Dimethyl-7-amino-1,2,3,4-tetrahydroisoquinoline hydrochloride
To 2,3-dimethyl-7-nitro-1,2,3,4tetrahydroisoquinoline hydrochloride (2.0 g, 8.24 mmol) in methanol (100 ml) was added a catalytic amount of 10% Pd--C. The mixture was hydrogenated at 50 psi for 1 h, filtered, and concentrated to a solid which was used immediately in the next reaction (1.6 g, 92%), m.p. 215-217° C.

reactant | 2,3-dimethyl-7-nitro-1,2,3,4tetrahydroisoquinoline hydrochloride | 8.24 mmol, 2.0 g | Cl.CN1CC2=CC(=CC=C2CC1C)[N+](=O)[O-]
solvent | methanol | 100 ml | CO | CH4O
product | 2,3-Dimethyl-7-amino-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.CN1CC2=CC(=CC=C2CC1C)N | InChI=1S/C11H16N2.ClH/c1-8-5-9-3-4-11(12)6-10(9)7-13(8)2;/h3-4,6,8H,5,7,12H2,1-2H3;1H
